US07504397B2
(iii) (6,7-Dimethoxy-quinazolin-4-yl)-hydrazine (40)
To a suspension of 4-Chloro-6,7-dimethoxy-quinazoline (0.20 g, 0.89 mmol) in anhydrous THF (0.5 ml) was added hydrazine (1M in THF, 2.0 ml, 2.0 mmol). The mixture was stirred at room temperature for 16 hours whereupon a precipitate had formed which was removed by filtration and washed with cold THF to give the desired product (177 mg, 91%) as a sticky off white solid which was sufficiently pure to be used without any further purification. m/z (LC-MS, ESP): 221 [M+H]+, R/T=2.48 mins.

reactant | 4-Chloro-6,7-dimethoxy-quinazoline | 0.89 mmol, 0.20 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | hydrazine | 2.0 mmol, 1M, 2.0 ml | NN | H4N2
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (6,7-Dimethoxy-quinazolin-4-yl)-hydrazine | 177 mg, 91% | COC=1C=C2C(=NC=NC2=CC1OC)NN | C10H12N4O2
